US06777414B1
6-Chloronicotinic acid (1.6 g, 10.0 mmol) was dissolved in ethanol. Concentrated sulfuric acid (0.5 ml) was added to the solution, and the mixture was refluxed overnight. The reaction solution was concentrated under the reduced pressure. The residue was diluted with methylene chloride and was then washed with water, followed by drying over anhydrous magnesium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by column chromatography on silica gel (development system, n-hexane:ethyl acetate=5:1) to give ethyl 6-chloronicotinate 1.6 g (yield 84%) as a colorless oil.

reactant | 6-Chloronicotinic acid | 10.0 mmol, 1.6 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | C(C)O | C2H6O
product | ethyl 6-chloronicotinate | 1.6 g, yield 84% | ClC1=NC=C(C(=O)OCC)C=C1 | C8H8ClNO2
